US07635684B2
The organic layer was washed with water and brine. To the organic layer was added a saturated aqueous potassium carbonate solution, and the aqueous layer was separated. The aqueous layer was acidified with 2 mol/L hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 3-(tert-butoxycarbonylamino)-2,2-di(methyl)propionic acid (2.78 g). This material was dissolved in N,N-dimethylformamide (30 mL). To the solution were added potassium carbonate (3.54 g) and benzyl bromide (2.28 mL), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with ethylacetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=2/1) to give benzyl 3-(tert-butoxycarbonylamino)-2,2-di(methyl)propionate (2.72 g). To this material was added hydrochloric acid (4 mol/L 1,4-dioxane solution, 10 mL), and the mixture was stirred at room temperature for 3 days. The reaction mixture was concentrated under reduced pressure. To the residue was added a saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give the title compound (1.61 g).

reactant | potassium carbonate | 3.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 2.28 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | benzyl 3-(tert-butoxycarbonylamino)-2,2-di(methyl)propionate | 2.72 g | C(C)(C)(C)OC(=O)NCC(C(=O)OCC1=CC=CC=C1)(C)C | C17H25NO4
